US05808062
6-(4-Benzyloxyphenyl)-4-hydroxy-3-[(2-isopropyl-phenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4-benzyloxyacetophenone (0.3 g, 0.675 mmol), trimethylsilyl triflate (0.15 g, 0.675 mmol), triethylamine (0.14 g, 1.35 mmol), methylene chloride (20 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (0.210 g, 0.675 mmol). m.p. 163°-165° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.28 (d, 6H), 3.4 (m, 1H), 5.22 (s, 2H), 6.64 (s, 1H), 6.92 (d, 1H), 7.06 (t, 1H), 7.11 (t, 1H), 7.19 (d, 1H), 7.28 (d, 1H), 7.36 (q, 2H), 7.42 (d, 2H), 7.49 (d, 2H), 7.83 (d, 2H).

reactant | 4-benzyloxyacetophenone | 0.675 mmol, 0.3 g | CC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | trimethylsilyl triflate | 0.675 mmol, 0.15 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 1.35 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 0.675 mmol, 0.210 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-Benzyloxyphenyl)-4-hydroxy-3-[(2-isopropyl-phenyl)thio]-2H-pyran-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)C(C)C)O | C27H24O4S
